US05929281
A flask was charged with 75 ml of o-xylene, 6.21 g of N-benzyl-5-bromoindole, 11.2 g of piperazine and 2.85 g of NaOBut. The flask was flushed with nitrogen for 10 minutes, and then, 6.0 mg of palladium acetate (the ratio of palladium atom/N-benzyl-5-bromoindole=0.10% by mole) and 0.07 ml of a solution in toluene of tri-tert.-butylphosphine having a concentration of 0.25 g/ml were added into the flask. Then the content was heated to 110° C. and maintained at that temperature for 3 hours. Extraction, drying and concentration were conducted, and finally recrystallization was conducted from toluene to give N-benzyl-5-(1-piperazinyl)indole. The yield was 89% by mole on the basis of N-benzyl-5-bromoindole.

reactant | N-benzyl-5-bromoindole | 6.21 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
reactant | piperazine | 11.2 g | N1CCNCC1 | C4H10N2
solvent | o-xylene | 75 ml | CC=1C=CC=CC1C | C8H10
product | N-benzyl-5-(1-piperazinyl)indole | yield was 89% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)N1CCNCC1 | C19H21N3
